US04072696
1.6 G. 1,2-diamino-4-phenylthiobenzene is dissolved in 30 ml. acetone and treated with 4 g. methoxycarbonyl isothiocyanate at room temperature overnight. The mixture is concentrated under vacuum and the residue triturated with ether. Recrystallization from methanol-chloroform yields pure 1,2-bis-(3-methoxycarbonyl-2-thioureido)-4-phenylthiobenzene.

reactant | 1,2-diamino-4-phenylthiobenzene | NC1=C(C=C(C=C1)SC1=CC=CC=C1)N | C12H12N2S
reactant | methoxycarbonyl isothiocyanate | COC(=O)N=C=S | C3H3NO2S
solvent | acetone | CC(=O)C | C3H6O
product | 1,2-bis-(3-methoxycarbonyl-2-thioureido)-4-phenylthiobenzene | COC(=O)NC(NC1=C(C=C(C=C1)SC1=CC=CC=C1)NC(=S)NC(=O)OC)=S | C18H18N4O4S3
